US07592477B2
To a mixture of 3-bromo benzoic acid (10 g, 0.5 mol), silver carbonate (276 g, 1 mol) and dry molecular sieves (100 g) taken in dry CH2Cl2 (2 L), tert-butylbromide (115 mL, 1 mol) was added dropwise at 0° C. and the reaction mixture was stirred overnight at RT. The solid was filtered and washed with dichloromethane. Organic layer was washed with 10% aqueous solution of NaHCO3 (2×500 mL), water (2×500 mL), brine and dried. The solvent was removed under vacuum to give tert-butyl-3-bromobenzoate (70 g, 57%).

reactant | 3-bromo benzoic acid | 0.5 mol, 10 g | BrC=1C=C(C(=O)O)C=CC1 | C7H5BrO2
reactant | tert-butylbromide | 1 mol, 115 mL | C(C)(C)(C)Br | C4H9Br
catalyst | silver carbonate | 1 mol, 276 g | C([O-])([O-])=O.[Ag+2]
product | tert-butyl-3-bromobenzoate | 70 g, 57% | C(C)(C)(C)OC(C1=CC(=CC=C1)Br)=O | C11H13BrO2
